US09340549B2
To a flask charged with 4-oxocyclohexane carboxylic acid (commercially available from Alfa Aesar, Ward Hill, Mass.) (2.000 mL, 14.07 mmol) were added DCM (56.3 mL), DIEA (5.16 mL, 29.5 mmol), HATU (5.35 g, 14.07 mmol) and 8-aminoquinoline (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (2.130 g, 14.77 mmol) respectively. The resulting light brown suspension was stirred overnight at room temperature without much color change but complete dissolution of materials. LC-MS indicated product as the primary species. The solution was dried under reduced pressure and purified ramping with EtOAc in heptane from 0-50%, then isocratic at 50% which led to the system clogging up a bit due to precipitation of product. Product eluted following a less polar impurity and the system was flushed with DCM:MeOH:NH4OH (90:10:1) to elute the remainder of the product. Solid 4-oxo-N-(quinolin-8-yl)cyclohexanecarboxamide (1.900 g, 7.08 mmol, 50.3% yield) was obtained as a tan. 1H NMR (400 MHz, CDCl3) δ=10.02 (br. s., 1H), 8.83 (dd, J=1.7, 4.2 Hz, 1H), 8.78 (dd, J=2.2, 6.7 Hz, 1H), 8.20 (dd, J=1.7, 8.3 Hz, 1H), 7.60-7.53 (m, 2H), 7.49 (dd, J=4.3, 8.3 Hz, 1H), 2.97 (tt, J=3.8, 10.5 Hz, 1H), 2.67-2.63 (m, 1H), 2.63-2.59 (m, 1H), 2.54-2.35 (m, 4H), 2.29-2.16 (m, 2H). m/z (ESI) 269.1 (M+H)+.

reactant | 4-oxocyclohexane carboxylic acid | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | DIEA | 29.5 mmol, 5.16 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 14.07 mmol, 5.35 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 8-aminoquinoline | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | DCM | 56.3 mL | C(Cl)Cl | CH2Cl2
product | 4-oxo-N-(quinolin-8-yl)cyclohexanecarboxamide | 7.08 mmol, 1.900 g, 50.3% yield | O=C1CCC(CC1)C(=O)NC=1C=CC=C2C=CC=NC12 | C16H16N2O2
